US05116984
(i) 1,2-Dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-methylene]-4(3H)-phenanthrenone
A solution of potassium hydroxide (0.25 g) in methanol (5 ml) was added to a solution of 1,2-dihydro-4(3H)-phenanthrenone (0.5 g) and 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde (0.9 g) in methanol (20 ml). The mixture was kept at 23° for 5 days after which time a solid had separated. This was filtered off, washed with ethanol and purified by FCC eluting firstly with hexane/dichloromethane (1:1) and then with dichloromethane to give the title compound (0.86 g), m.p. 145°-148° (decomp.).

reactant | potassium hydroxide | 0.25 g | [OH-].[K+]
reactant | 1,2-dihydro-4(3H)-phenanthrenone | 0.5 g | C1CCC(C=2C3=CC=CC=C3C=CC12)=O | C14H12O
reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 0.9 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 1,2-Dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-methylene]-4(3H)-phenanthrenone | 0.86 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C1CCC=2C=CC3=CC=CC=C3C2C1=O | C38H30N2O
